US07423159B2
A mixture of 5-methyl-3-(4-nitrobenzyl)-1,2,4-oxadiazole (3.89 g), Lindlar catalyst (2.0 g) and tetrahydrofuran (200 mL) was subjected to catalytic reduction under a hydrogen atmosphere at atmospheric pressure. The catalyst was removed by filtration, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give 4-[(5-methyl-1,2,4-oxadiazol-3-yl)methyl]aniline as a brown oil (0.33 g, yield 10%) from a fraction eluted with hexane-ethyl acetate (3:1-2:1, v/v).

reactant | 5-methyl-3-(4-nitrobenzyl)-1,2,4-oxadiazole | 3.89 g | CC1=NC(=NO1)CC1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O3
catalyst | Lindlar catalyst | 2.0 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-[(5-methyl-1,2,4-oxadiazol-3-yl)methyl]aniline | 0.33 g, yield 10% | CC1=NC(=NO1)CC1=CC=C(N)C=C1 | C10H11N3O
